US03957782
a. 1-Ethyl-6-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid
49 g. of 5-amino-1-ethyl-4-nitrosopyrazole (0.35 mol.) are added to a solution of 8.05 g. of sodium (0.35 mol.) in 350 ml. of absolute ethanol and this is stirred at room temperature for 30 minutes. After the addition of 50 g. of acetoacetic acid ethyl ester (0.385 mol.) the reaction mixture is heated at reflux temperature for 31/2 hours. The precipitated sodium salt is filtered off, washed with ether and dried at 50°, yield 47.1 g. (59%). By dissolving the sodium salt in water, treatment with charcoal and acidification with concentrated hydrochloric acid, 1-ethyl-6-methyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxylic acid, m.p. 148°-149° (ethanol) is obtained.

reactant | 5-amino-1-ethyl-4-nitrosopyrazole | 0.35 mol | NC1=C(C=NN1CC)N=O | C5H8N4O
reactant | sodium | 0.35 mol | [Na] | Na
reactant | acetoacetic acid ethyl ester | 0.385 mol | C(C)OC(CC(=O)C)=O | C6H10O3
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-6-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)O)C | C9H10N4O2
